US20010049441A1
3-(1,2,3,5,8,8a-Hexahydro-7-indolizinyl)-1H-4-azaindole (792 mg, 39%);
from 4-azaindole (1.0 g, 8.46 mmol), 1,2,3,5,6,8,8a-heptahydrohydro-7-oxo-indolizine (1.77 g, 12.7 mmol) and pyrrolidine (3.5 g, 42.3 mmol) in ethanol (8 mL), heating at reflux for 3 hrs.

reactant | 4-azaindole | 8.46 mmol, 1.0 g | N1C=CC2=NC=CC=C12 | C7H6N2
reactant | pyrrolidine | 42.3 mmol, 3.5 g | N1CCCC1 | C4H9N
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 3-(1,2,3,5,8,8a-Hexahydro-7-indolizinyl)-1H-4-azaindole | C1CCN2CC=C(CC12)C1=CNC2=CC=CN=C12 | C15H17N3
